US07645752B2
Step 4: Preparation of 3-(phenylsulfonyl)-5-vinyl-1H-indole:
5-bromo-3-(phenylsulfonyl)-1H-indole (505 mg, 1.50 mmol) and dichlorobis(tri-o-tolylphosphine)-palladium(II) (118 mg, 0.09 mmol) were dissolved in toluene (5 mL) and stirred for 10 minutes at room temperature under a nitrogen atmosphere. Tributyl(vinyl)tin (619 mg, 1.95 mmol) was added and the mixture was refluxed for 1 hour. The mixture was cooled to room temperature, diluted with ethyl acetate (10 mL), 1 M KF (5 mL) and stirred for 12 hours. The resultant tin salt precipitate is removed by suction filtration and the organic layer was washed with water (5 mL), then brine and dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (40% ethyl acetate/petroleum ether) gave the title compound as a white solid (313 mg, 74%). Mp: 140-145° C. MS (ES+): 284 (M+H).

reactant | 5-bromo-3-(phenylsulfonyl)-1H-indole | 1.50 mmol, 505 mg | BrC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C14H10BrNO2S
reactant | Tributyl(vinyl)tin | 1.95 mmol, 619 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | KF | 1 M, 5 mL | [F-].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.09 mmol, 118 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 3-(phenylsulfonyl)-5-vinyl-1H-indole | 313 mg, 74% | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=C(C=C12)C=C | C16H13NO2S
